US04797492
5-Trifluoromethyl-3-aminoisoxazole
The reaction was carried out according to the same procedure as described in Example 50 except that 5-trifluoromethyl-3-pivaloylaminoisoxazole (0.7553 g, 3.20 mmole), 36% hydrochloric acid (0.81 g, 8.00 mmole) and ehtylene glycol (3.2 ml) were used. The product was then purified by column chromatography on silica gel to give the title compound. Yield: 0.3686 g (75.7%). The structure of this product was confirmed by NMR.

reactant | 5-trifluoromethyl-3-pivaloylaminoisoxazole | 3.20 mmole, 0.7553 g | FC(C1=CC(=NO1)NC(C(C)(C)C)=O)(F)F | C9H11F3N2O2
reactant | hydrochloric acid | 8.00 mmole, 0.81 g | Cl | ClH
solvent | ehtylene glycol | 3.2 ml | C(CO)O | C2H6O2
product | 5-Trifluoromethyl-3-aminoisoxazole | FC(C1=CC(=NO1)N)(F)F | C4H3F3N2O
